### PR TITLE
[Merged by Bors] - feat(Tactic/Linter/UnusedTactic): also lint inside `conv =>`

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR extends the unused tactic linter to also lint inside `conv =>`/`conv_lhs =>`/`slice_lhs i j =>`. It is sometimes neccessary to use the `skip` conv mode tactic to skip goals you don't want to conv into, so I added the conv mode skip to the list of exception tactics.

I also added a test, and did some general cleanup:
- The warning message of the linter is improved.
- The hard-coded exception that `#show_kind` had, is replaced with just adding it to the list of exceptions.

After this, the unused tactic linter will (almost entirely) subsume the unreachable tactic linter. So, we will be able to turn it off, which will gain us quite a bit of performance.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: MathlibTest/Linter/UnusedTactic.lean [hunk 1]
```diff
@@ -48,6 +48,23 @@ example : True := by
...
+---
+warning: `show False` tactic does nothing
+
+Note: This linter can be disabled with `set_option linter.unusedTactic false`
+-/
+#guard_msgs in
+example : True := by
+  conv =>
+    skip -- `skip` in `conv` mode does not warn.
+    simp -- other tactics in `conv` do warn
```
Comment (grunweg) [inline MathlibTest/Linter/UnusedTactic.lean]: This comment seems to be missing a verb, how about this?
```suggestion
    simp -- other tactics in `conv` mode do warn
```

File: MathlibTest/Linter/UnusedTactic.lean [hunk 2]
```diff
@@ -11,7 +11,7 @@ example : 0 + 1 = 1 := by
   rfl
 
 /--
-warning: 'change 1 = 1' tactic does nothing
+warning: `change 1 = 1` tactic does nothing
```
Comment (grunweg) [inline MathlibTest/Linter/UnusedTactic.lean]: Pre-existing: I find the current wording understandable, but ungrammatical. Should it say "*the `foo`  tactic does nothing"?

File: Mathlib/Tactic/Linter/UnusedTactic.lean [hunk 3]
```diff
@@ -82,12 +80,14 @@ abbrev M := StateRefT (Std.HashMap Lean.Syntax.Range Syntax) IO
...
   Lean.Parser.Tactic.guardHyp
+  Lean.Parser.Tactic.guardHypConv
   Lean.Parser.Tactic.guardTarget
+  Lean.Parser.Tactic.guardTargetConv
   Lean.Parser.Tactic.failIfSuccess
 
 /--
-A list of blocklisted syntax kinds, which are expected to have subterms that contain
-unevaluated tactics.
+A list of blacklisted syntax kinds, which are expected to have subterms that contain
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/UnusedTactic.lean]: Why this change?

**Review by grunweg — COMMENTED** [review]
Thanks for doing this. This seems reasonable - I just have three minor comments.

File: MathlibTest/Linter/UnusedTactic.lean (hunk 2 above)
Comment (JovanGerb) [reply MathlibTest/Linter/UnusedTactic.lean]: How about "Unused tactic linter: `foo` does nothing"? That way you can tell who is giving the warning

File: Mathlib/Tactic/Linter/UnusedTactic.lean (hunk 3 above)
Comment (JovanGerb) [reply Mathlib/Tactic/Linter/UnusedTactic.lean]: I thought `blacklisted` was the right word in this context, but I might be wrong, I'll revert.

File: MathlibTest/Linter/UnusedTactic.lean (hunk 2 above)
Comment (grunweg) [reply MathlibTest/Linter/UnusedTactic.lean]: I like that!

File: Mathlib/Tactic/Linter/UnusedTactic.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/Tactic/Linter/UnusedTactic.lean]: I don't think "blacklisted" is great terminology to use these days (see e.g. the rust compiler discussing this: https://github.com/rust-lang/rust/pull/74150). In fact, "ignored" would be even more precise here...

**Review by grunweg — COMMENTED** [review]
Thanks for doing this! I'd like another pair of eyes in the changes to `Fubini.lean`; the linter changes LGTM.
maintainer merge?

**Comment by grunweg** [comment]
Oh, and can you update the PR description to mention the wording tweaks also?

File: Mathlib/CategoryTheory/Limits/Fubini.lean [hunk 4]
```diff
@@ -602,7 +602,7 @@ theorem colimitFlipCompColimIsoColimitCompColim_ι_ι_inv (k) (j) :
       (colimitFlipCompColimIsoColimitCompColim F).inv =
         (colimit.ι _ j ≫ colimit.ι (F.flip ⋙ colim) k : _ ⟶ colimit (F.flip ⋙ colim)) := by
   dsimp [colimitFlipCompColimIsoColimitCompColim]
-  slice_lhs 1 3 => simp only
+  conv_lhs => slice 1 3
```
Comment (JovanGerb) [inline Mathlib/CategoryTheory/Limits/Fubini.lean:605]: This can also be written as `slice_lhs 1 3 => skip`. I'm not sure which is preferred.

**Comment by adomani** [comment]
Thanks!

A very minor omission is a test for the guardHyp/guardTarget behaviour.

bors d+

**Comment by JovanGerb** [comment]
The test file is very small - most things aren't tested. Should I add tests for all the exceptions?

**Comment by adomani** [comment]
Not all necessarily, but it seems like the guards are excepted via a slightly different route than, say, `skip` in `conv` mode, so one unlinted guard is probably enough.

Thanks!

**Comment by JovanGerb** [comment]
It looks like the guards are excepted via a different mechanism than the `skip`, but it is secretly the same mechanism. I will make another PR cleaning this up, and that PR will also remove the `UnusedTacticExtension` file, since it is not needed to have this separate file.

bors r+
